US04363912
A solution of 1-(2-methyl-3-indolyl)-1-(3-pyridyl)ethylene (prepared according to J. Het. Chem., 9, 833, 1972) (9.37 g) in ethanol (200 ml) was hydrogenated at 2.5 atm. pressure in the presence of 10% palladium/charcoal. The solution was filtered and evaporated and the residue was crystallised from ethyl acetate/petrol (b.p. 60°-80°) to give 2-methyl-3[1-(3-pyridyl)ethyl]indole (5.74 g) m.p. 139°-141° C.

reactant | 1-(2-methyl-3-indolyl)-1-(3-pyridyl)ethylene | 9.37 g | CC=1NC2=CC=CC=C2C1C(=C)C=1C=NC=CC1 | C16H14N2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium/charcoal | [Pd] | Pd
product | 2-methyl-3[1-(3-pyridyl)ethyl]indole | 5.74 g | CC=1NC2=CC=CC=C2C1C(C)C=1C=NC=CC1 | C16H16N2
